US06300316B1
N-(2-Aminoethyl)-4-methoxy-1,2,3,4-tetrahydroisoquinoline
A solution of N-glycyl-4-methoxy-1,2,3,4-tetrahydroisoquinoline in 25 mL of THF was cooled in an ice bath and 10 M solution of borane-methyl sulfide complex in THF (3.85 mL) was added dropwise. The resulting mixture was warmed to 55° C. and then to reflux for 4 hours. Excess borane was destroyed by addition of 6N HCl. The resulting mixture was heated to 100° C. for 1 hour. The resulting solution was first extracted with EtOAc and then with 10% iPrOH—CH2Cl2. The iPrOH—CH2Cl2 extract gave 880 mg (28%) of the title compound.

reactant | N-glycyl-4-methoxy-1,2,3,4-tetrahydroisoquinoline | NCC(=O)N1CC2=CC=CC=C2C(C1)OC | C12H16N2O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 3.85 mL | C1CCOC1 | C4H8O
product | N-(2-Aminoethyl)-4-methoxy-1,2,3,4-tetrahydroisoquinoline | 880 mg, 28% | NCCN1CC2=CC=CC=C2C(C1)OC | C12H18N2O
